2113-08-19 09:55:00 Physician Attending Progress Note
Chief Complaint: LGIB
   HPI:
   82 yo with stage IV vulvar ca, large pelvic mass, LLE dvt with rectal
   bleeding
   24 Hour Events:
   IVC filter attempted but SVC too dilated; vascular feels that they
   don't have any options
   Hemos stable
   One further episode of bleeding but small
   1 unit pRBC's, 3 FFP yesterday
 nothing further overnight
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-8-19**] 08:00 AM
   Other medications:
   colace
   senna prn
   tylenol
   morphine prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Patient feels well currently, no complaints. Denies pain.
   Flowsheet Data as of  [**2113-8-19**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37
C (98.6
   HR: 70 (69 - 93) bpm
   BP: 102/42(55) {98/42(55) - 136/82(88)} mmHg
   RR: 24 (17 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,197 mL
                                                                    956 mL
   PO:
             240 mL
   TF:
   IVF:
   716 mL
   Blood products:
                                                                    894 mL
   Total out:
                                                                    380 mL
                                                                    400 mL
   Urine:
                                                                    380 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,817 mL
                                                                    556 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   NAD
   EOMI, pale conjunctiva
   No JVD
   RRR with 1/6 sm at LLSB, pronounced lateralized PMI
   CTAB no w/r/r
   Abdomen
 benign +BS
   Left lower ext with 2+ pitting edema, wwp
   Neurologically in tact without focal deficit
   Mood/affect appropriate
   Labs / Radiology
   9.0 g/dL
   353 K/uL
   79 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.4 mEq/L
   17 mg/dL
   98 mEq/L
   136 mEq/L
   26.5 %
   8.2 K/uL
        [image002.jpg]
                             [**2113-8-18**]  02:36 PM
                             [**2113-8-18**]  09:11 PM
                             [**2113-8-19**]  02:25 AM
   WBC
   8.2
   Hct
   23.3
   25.7
   26.5
   Plt
   353
   Cr
   0.9
   Glucose
   79
   Other labs: PT / PTT / INR:14.1/29.5/1.2, Ca++:8.7 mg/dL, Mg++:1.4
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   82 yo with stage IV vulvar ca, large pelvic mass, LLE dvt with rectal
   bleeding
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   no further bleeding since yesterday.
   stable, continuing to hold anticoagulation - no possibility for IVC
   filter at this time. Likely will need to be back on anticoagulation,
   given high risk with large DVT, however, would like to have at least
   flex sig first.
   Transfusion goal>25
   Q12hcts
   Gi on board
 hoping to obtain flex sig today or tomorrow prior to
   reinitation of anticoagulation - ?eroding mass
   Bleeding scan if rebleeds
   Will keep in ICU, especially if restarting heparin gtt, to monitor.
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
   IVC filter unable to be placed (due to enlarged IVC caliber, exceeding
   recommended diameter for available filters), will likely need to
   restart anticoagulation, despite GIB
   Vulvar Carcinoma - heme/onc on board - symptomatic treatment
   ICU Care
   Nutrition:
   Comments: ?advancing diet pending GI recs
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-8-18**] 12:00 PM
   22 Gauge - [**2113-8-18**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Flexible sygmoidoscopy performed demonstrating probable diverticulosis
   (at this time).  No evidence for erroding tumor or other masses.  Will
   attribute GI bleed to diverticular source.  If rebleeds, will require
   complete colonoscopy.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2113-8-19**] 15:29 ------

2113-08-20 11:22:00 Physician Attending Progress Note
Chief Complaint: LGIB
   HPI:
   82 yo F stage IV vulvar ca, large pelvic mass, LLE dvt with rectal
   bleeding
   24 Hour Events:
   flex sig yesterday - no infiltrating lesion or active bleed
   heparin gtt restarted without bolus
   hct was stable overnight, no rectal bleeding
   UOP dropped overnight [**Name8 (MD) 24**] RN - given 1L NS overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2113-8-19**] 02:10 PM
   Pantoprazole (Protonix) - [**2113-8-20**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-20**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 68 (66 - 82) bpm
   BP: 112/54(68) {88/43(53) - 117/54(68)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,923 mL
                                                                  1,559 mL
   PO:
                                                                    360 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,563 mL
                                                                  1,199 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    550 mL
   Urine:
                                                                    800 mL
                                                                    550 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,023 mL
                                                                  1,009 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   NAD
   EOMI, pale conjunctiva
   No JVD
   RRR with 1/6 sm at LLSB, pronounced lateralized PMI
   CTAB no w/r/r
   Abdomen
 benign +BS
   Left lower ext with 2+ pitting edema, wwp
   Neurologically in tact without focal deficit
   Mood/affect appropriate
   Labs / Radiology
   8.5 g/dL
   371 K/uL
   138 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.3 mEq/L
   18 mg/dL
   101 mEq/L
   137 mEq/L
   25.5 %
   8.0 K/uL
        [image002.jpg]
                             [**2113-8-18**]  02:36 PM
                             [**2113-8-18**]  09:11 PM
                             [**2113-8-19**]  02:25 AM
                             [**2113-8-19**]  02:04 PM
                             [**2113-8-19**]  11:47 PM
                             [**2113-8-20**]  05:43 AM
   WBC
   8.2
   8.7
   8.0
   Hct
   23.3
   25.7
   26.5
   26.2
   24.7
   25.5
   Plt
   353
   347
   371
   Cr
   0.9
   0.9
   Glucose
   79
   138
   Other labs: PT / PTT / INR:13.6/96.2/1.2, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   82 yo with stage IV vulvar ca, large pelvic mass, LLE dvt with rectal
   bleeding
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   no further bleeding since yesterday.
   stable, restarted heparin gtt after flex sig did not indicate
   infiltrating mass or active bleed. Differential includes mass higher
   up, diverticular bleed, hemorrhoidal bleed. No possibility for IVC
   filter at this time.
   Transfusion goal>25
   Q12hcts
   Gi on board
 [**Last Name (un) **] if rebleeds sooner, otherwise [**Last Name (un) **] later on in
   hospital course
   Bleeding scan if rebleeds
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
   IVC filter unable to be placed (due to enlarged IVC caliber, exceeding
   recommended diameter for available filters), we have restarted heparin
   gtt without further bleeding at this time.
   Vulvar Carcinoma - heme/onc on board - symptomatic treatment
   ICU Care
   Nutrition:
   Comments: clears
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-8-18**] 12:00 PM
   22 Gauge - [**2113-8-18**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes